US04591377
To a suspension of 195 milligrams (mg) (8.13 mM) of sodium hydride in 20 ml of anhydrous tetrahydrofuran was added, in portions, 2 g (8.13 mM) of isopropyl 2-bromo-4-methyl-5-imidazolecarboxylate. The resulting suspension was cooled to 0° C. and 1.03 g (8.13 mM) of 4-chloromethylpyridine was added. The reaction mixture was stirred overnight at 50° C. The precipitated sodium chloride was removed by filtration and concentration in vacuo of the filtrate gave 2.5 g (92%) of isopropyl N-(4-pyridylmethyl)-2-bromo-4-methyl-5-imidazole carboxylate as a tan solid.

reactant | sodium hydride | 8.13 mM, 195 milligrams | [H-].[Na+]
reactant | isopropyl 2-bromo-4-methyl-5-imidazolecarboxylate | 8.13 mM, 2 g | BrC=1NC(=C(N1)C)C(=O)OC(C)C | C8H11BrN2O2
reactant | 4-chloromethylpyridine | 8.13 mM, 1.03 g | ClCC1=CC=NC=C1 | C6H6ClN
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | isopropyl N-(4-pyridylmethyl)-2-bromo-4-methyl-5-imidazole carboxylate | 2.5 g, 92% | N1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OC(C)C)C)Br | C14H16BrN3O2
